US06525042B1
Methyl 4-[2-(tert-Butoxycarbonylamino)pyridin-5-yl]benzoate
At room temperature, methyl 4-(2-aminopyridin-5-yl)benzoate (200 mg) was suspended in tert-butanol (20 ml). To the resulting suspension, di-tert-butyl dicarbonate (286 mg) was added and the resulting mixture was stirred for 24 hours. After the solvent was distilled off, the residue was purified by chromatography on a silica gel column (1% methanol-dichloromethane), whereby the title compound (155 mg, 54%) was obtained as a colorless solid.

reactant | methyl 4-(2-aminopyridin-5-yl)benzoate | 200 mg | NC1=NC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C13H12N2O2
reactant | di-tert-butyl dicarbonate | 286 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butanol | 20 ml | C(C)(C)(C)O | C4H10O
product | Methyl 4-[2-(tert-Butoxycarbonylamino)pyridin-5-yl]benzoate | C(C)(C)(C)OC(=O)NC1=NC=C(C=C1)C1=CC=C(C(=O)OC)C=C1 | C18H20N2O4
